US04312368
Pyrolysis of Ethyl 2-(2-Butyl)-3-hydroxy-3-methyl-3-(3-pyridyl)propionate
Analysis of the pyrolysis product mixture by gas chromatography and preparative thin layer chromatography indicates that the mixture consists of 12 milligrams of the hydroxy ester starting material, and 85 milligrams of a 1:1 mixture of 3-acetylpyridine and ethyl β-methylvalerate.

reactant | 3-acetylpyridine | C(C)(=O)C=1C=NC=CC1 | C7H7NO
reactant | ethyl β-methylvalerate | CC(CC(=O)OCC)CC | C8H16O2
product | Ethyl 2-(2-Butyl)-3-hydroxy-3-methyl-3-(3-pyridyl)propionate | CC(CC)C(C(=O)OCC)C(C=1C=NC=CC1)(C)O | C15H23NO3
